US04956368
2-Hydroxy-8-(4-bromobutyl)-8-azaspiro[4.5]decane-7,9-dione
This compound was prepared from 8-(4-bromobutyl)-8-azaspiro[4.5]dec-2-ene-7,9-dione according to the procedure as a viscous liquid. Flash chromatography in EtOAc/hexane (3:2) afforded the title compound in 75% yield as a clear oil; IR (neat) 3450, 2956, 1725, 1670, 1436, 1394, 1355, 1267, 1137 cm-1 ; 1H NMR (CDCl3) 6 5.32 (s, IH), 4.24 (b s, lH), 3.81 (t, J=7.1 Hz, 2H), 3.42 (t, J=7.1 Hz, 2H), 2.82 (s, 2H), 2.61 (s, 2H), 2.09-1.53 (m, 10H); mass spectrum, m/z (relative intensity) 320 (M.H+2, 61), 318 (M+H, 68), 302 (25), 300 (25), 260 (28), 258 (28), 137 (28), 135 (30), 95 (100).

reactant | 8-(4-bromobutyl)-8-azaspiro[4.5]dec-2-ene-7,9-dione | BrCCCCN1C(CC2(CC=CC2)CC1=O)=O | C13H18BrNO2
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 2-Hydroxy-8-(4-bromobutyl)-8-azaspiro[4.5]decane-7,9-dione | 75% yield | OC1CC2(CC1)CC(N(C(C2)=O)CCCCBr)=O | C13H20BrNO3
